US04578378
To a mixture of 3-oxothiane-2-carboxylic acid ethyl ester (2.0 g), methanol (8 ml), and methyl orthoformate (20 ml) is added p-toluenesulfonic acid monohydrate (120 mg). After refluxing overnight, the mixture is concentrated, diluted with ethyl acetate, washed with water, dried, and concentrated to give 3,3-dimethoxythiane-2-carboxylic acid ethyl ester (1.32 g).

reactant | 3-oxothiane-2-carboxylic acid ethyl ester | 2.0 g | C(C)OC(=O)C1SCCCC1=O | C8H12O3S
reactant | methyl orthoformate | 20 ml | C(OC)([O-])[O-]
reactant | p-toluenesulfonic acid monohydrate | 120 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 8 ml | CO | CH4O
product | 3,3-dimethoxythiane-2-carboxylic acid ethyl ester | 1.32 g | C(C)OC(=O)C1SCCCC1(OC)OC | C10H18O4S
